US07700628B2
Preparation of 5-Fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)-benzoylamino]-N-(4-nitrophenyl)benzamide
Using methods substantially equivalent to those described in Example 118, 5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]-N-(4-nitro-phenyl)benzamide hydrochloride was prepared from 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one and 4-nitroaniline.

reactant | 5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]-N-(4-nitro-phenyl)benzamide hydrochloride | Cl.FC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O
reactant | 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one | FC=1C=CC2=C(C(OC(=N2)C2=C(C=C(C=C2)N2CCCC2)OC2CCN(CC2)C)=O)C1 | C24H26FN3O3
reactant | 4-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
product | 5-Fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)-benzoylamino]-N-(4-nitrophenyl)benzamide | FC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O | C30H32FN5O5
